US04831031
6-(2-(4-(1-Naphthyl)-piperazinyl)ethyl)benzothiazolone
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.0 g (3.88 mmol) of 6-(2-bromoethyl)benzothiazolone, 822 mg (3.88 mmol) N-(1-naphthyl)piperazine, 410 mg (3.88 mmol) sodium carbonate, and 50 ml methylisobutylketone. The reaction was refluxed for 24 hours, cooled, and evaporated. The residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated. The resulting solid was treated with hot ethyl acetate to afford a white solid, m.p. 198°-220° C., 540 mg (36%).

reactant | 6-(2-bromoethyl)benzothiazolone | 3.88 mmol, 1.0 g | BrCCC1=CC2=C(N=CS2=O)C=C1 | C9H8BrNOS
reactant | N-(1-naphthyl)piperazine | 3.88 mmol, 822 mg | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | sodium carbonate | 3.88 mmol, 410 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | 6-(2-(4-(1-Naphthyl)-piperazinyl)ethyl)benzothiazolone | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCC1=CC2=C(N=CS2=O)C=C1 | C23H23N3OS
